US05371096
To a stirred suspension of 150 g of β-(3-pyridyl)acrylic acid in 1500 ml of ethanol a slow stream of hydrogen chloride gas is bubbled for 4 to 5 hr, where all solids dissolved. Approximately 500 ml of ethanol are distilled off at atmospheric pressure, the residual solution is cooled and diluted with 1500 ml of ether with stirring. The solids are filtered, washed with ether and resuspended in ethyl acetate. The stirred suspension is neutralized with conc. aq. sodium bicarbonate. The ethyl acetate layer is separated and the aqueous layer is extracted once more with ethyl acetate. The combined organic extracts are washed with brine, dried (MgSO4), evaporated and the residual oil is distilled to give 110 g of ethyl β-(3-pyridyl)acrylate with bp 95°-100° C., 0.1 mm/Hg.

reactant | β-(3-pyridyl)acrylic acid | 150 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 1500 ml | C(C)O | C2H6O
product | ethyl β-(3-pyridyl)acrylate | 110 g | N1=CC(=CC=C1)C=CC(=O)OCC | C10H11NO2
